US04791113
Preparation of 1aS-(1aα,8β,8aα,8bα)]-6-[(4"-aminobenzoyl)azo]-8-{[(aminocarbonyl)oxy]methyl}-4,7-dihydroxy-1,1a,2,8,8a,8b-hexahydro-8a-methoxy-5-methyl-azirino[2',3':3,4]pyrrolo[1,2-a)indole
In a similar manner to that described in Example 17, mitomycin A (302 mg), 4-aminobenzoylhydrazine (389 mg) and potassium carbonate (150 mg) are used to obtain the desired product (163 mg) with a yield of 40.5%.

reactant | mitomycin A | 302 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | 4-aminobenzoylhydrazine | 389 mg | NC1=CC=C(C(=O)NN)C=C1 | C7H9N3O
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
product | 6-[(4"-aminobenzoyl)azo]-8-{[(aminocarbonyl)oxy]methyl}-4,7-dihydroxy-1,1a,2,8,8a,8b-hexahydro-8a-methoxy-5-methyl-azirino[2',3':3,4]pyrrolo[1,2-a)indole | 163 mg, yield of 40.5% | NC1=CC=C(C(=O)N=NC2=C(C=3C(C4(N(C3C(=C2C)O)CC2C4N2)OC)COC(=O)N)O)C=C1 | C22H24N6O6
